US04017515
2-Benzyloxyimino-2-(benzo [b]-thien -3-yl)acetic acid (syn isomer)
Benzo[b]-thien-3-ylglyoxylic acid (2.27 g) and benzyloxyamine hydrochloride (1.915 g) were dissolved in ethanol (70 ml) and water (30 ml). The solution was adjusted to pH 4.5 with 40% w/v sodium hydroxide solution and stirred at this pH for 2 hr. The solution was stood overnight and adjusted to pH 9 then washed with ether. The aqueous phase was acidified under ethyl acetate and the organic layer was washed with water, saturated brine and dried. Evaporation gave a mixture of syn and anti-isomers as a buff crystalline solid (3.4 g., 99%). The crude acid in ether was treated with excess diazomethane in ether at 0°-5°. The excess reagent was destroyed with acetic acid and the ether solution was washed with sodium bicarbonate, water and dried. Evaporation gave a pale brown oil (3.34 g., 93%). The crude product in methanol (100 ml.) was treated with sodium hydroxide solution (1N, 10 ml) at room temperature for 1 hr. The hydrolysis was followed by thin layer chromatography on silica. Hydrochloric acid (2N 5 ml.) was added to stop the hydrolysis and methanol was removed by evaporation. Ethyl acetate was added and the anti-2-benzyloxyimino-2-(benzo[b]-thien-3-yl)acetic acid was removed by washing with sodium bicarbonate. The ethyl acetate layer was washed with water and dried and evaporated to a pale orange oil (1.99 g., 56%). This was treated in methanol (90 ml.) with sodium hydroxide (1N; 10 ml) at room temperature for 7 hr. A further aliquot of sodium hydroxide (1N; 5 ml) was added and the solution stood for 2 days to complete hydrolysis. The methanol was removed by evaporation and the residue dissolved in ethyl acetate and water. The mixture was adjusted to pH 1.5 and the ethyl acetate layer was washed with water, saturated brine and dried. Evaporation gave yellow crystals (1.82 g. 50%) Crystallisation from a mixture of benzene and cyclohexane gave the title compound as pale orange crystals (1.29 g., 36%), m.p. 120.5°-121°, λmax. (EtOH) 232, 285.5, 296.5 306.5 nm. (ε22,500, 11,800, 11,500, 10,400), τ values (DMSO-d6) include 1.90, 1.97, 2.3-2.7 (aromatic protons), 4.64 (CH2 singlet).

reactant | Benzo[b]-thien-3-ylglyoxylic acid | 2.27 g | S1C2=C(C(=C1)C(C(=O)O)=O)C=CC=C2 | C10H6O3S
reactant | benzyloxyamine hydrochloride | 1.915 g | Cl.C(C1=CC=CC=C1)ON
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 2N, 5 ml | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | methanol | 100 ml | CO | CH4O
product | 2-Benzyloxyimino-2-(benzo [b]-thien -3-yl)acetic acid | 1.29 g, 36% | C(C1=CC=CC=C1)ON=C(C(=O)O)C=1C2=C(SC1)C=CC=C2 | C17H13NO3S
